US04013769
A solution sodium nitrite (2.38 g) in water (10 ml) was added dropwise to a stirred mixture of 3-amino-2-hydroxy-methylpyridine (4.8 g) in aqueous hydrochloric acid (48% 10 ml) and water (5 ml) at 0°-5° C. This solution of the diazonium salt was added to a hot solution of cuprous chloride (2.5 g) in conc. hydrochloric acid and following cessation of nitrogen evolution the mixture was heated on the steam bath for 0.5 hours, diluted with water and saturated with hydrogen sulphide. Filtration, concentration to low bulk and extraction with chloroform yielded 3-chloro-2-hydroxy-methyl-pyridine (3.7 g), m.p. 42°-44° (from n-pentane). This was dissolved in aqueous hydrobromic acid (48%, 50 ml), cysteamine hydrochloride (3.22 g) added and the solution obtained was heated under reflux for 6 hours. Concentration, followed by recrystallisation from aqueous ethanol afforded 2-[(2-aminoethyl)thiomethyl]-3-chloropyridine dihydrobromide (6.0 g), m.p. 250°.

reactant | sodium nitrite | 2.38 g | N(=O)[O-].[Na+]
reactant | 3-amino-2-hydroxy-methylpyridine | 4.8 g | NC=1C(=NC=CC1C)O | C6H8N2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | hydrogen sulphide | S | H2S
product | 3-chloro-2-hydroxy-methyl-pyridine | 3.7 g | ClC=1C(=NC=CC1C)O | C6H6ClNO
